US08211914B2
The above 4-((S)-3-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenoxy}-pyrrolidin-1-yl)-benzoic acid tert-butyl ester (150 mg) was dissolved in a mixture of methylene chloride (2 mL) and trifluoroacetic acid (4 mL). The mixture was stirred at room temperature for 1 hr and solvents were evaporated. The residue was extracted with ethyl acetate and water. The organic layer was dried and solvents were evaporated. The residue was triturated with ethyl acetate and hexanes to give a tan solid as 4-((S)-3-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenoxy}-pyrrolidin-1-yl)-benzoic acid (75 mg). LC-MS for C28H22F3N3O5 (m/e) calcd 537, obsd 538 (M+H). 1H-NMR is consistent with the desired structure.

reactant | 4-((S)-3-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenoxy}-pyrrolidin-1-yl)-benzoic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(C1=CC=C(C=C1)N1C[C@H](CC1)OC1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O | C32H30F3N3O5
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-((S)-3-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenoxy}-pyrrolidin-1-yl)-benzoic acid | 75 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(O[C@@H]2CN(CC2)C2=CC=C(C(=O)O)C=C2)C=C1)C(F)(F)F | C28H22F3N3O5
